US04956359
3-(3-Chlorophenoxy)-N-methyl-1-azetidinecarboxamide
A solution of 1-chlorocarbonyl-3-(3-chlorophenoxy)azetidine (0.01275 mole) in 20 ml of tetrahydrofuran was treated with 4 ml (0.05 mole) of 40% aqueous methylamine and stirred for 16 hr. The reaction mixture was diluted with water until an oil began to separate, then extracted with 3×50 ml of benzene. The combined extracts were dried over magnesium sulfate and concentrated to a solid which was recrystallized from benzene/ligoin to yield 1.2 g (40.0%) of fine white crystals, m.p. 140°-141° C.

reactant | 1-chlorocarbonyl-3-(3-chlorophenoxy)azetidine | 0.01275 mole | ClC(=O)N1CC(C1)OC1=CC(=CC=C1)Cl | C10H9Cl2NO2
reactant | methylamine | 0.05 mole, 4 ml | CN | CH5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-(3-Chlorophenoxy)-N-methyl-1-azetidinecarboxamide | 1.2 g, 40.0% | ClC=1C=C(OC2CN(C2)C(=O)NC)C=CC1 | C11H13ClN2O2
